US04885300
1-(1-Chloro-2-hydroxy-3-propanyl)-4-[bis(4-chlorophenyl)methyl]piperazine
4,4'-Dichlorobenzhydrylpiperazine ((6.0 g, 18.7 mmol) was reacted as above with epichlorohydrin to give the title compound as an amber oil, 3.67 g (49.8%). 100 MHz 1H NMR (CDCl3) δ: 7.3 (s, 8H), 4.2 (s, 1H), 3.9 (m, 1H), 3.6 (d, 2H, J=10 Hz), 2.9 (m, 2H), 2.7-2.4 (m, 10H).

reactant | 4,4'-Dichlorobenzhydrylpiperazine | ClC1=CC=C(C(C2=CC=C(C=C2)Cl)N2CCNCC2)C=C1 | C17H18Cl2N2
reactant | epichlorohydrin | C(Cl)C1CO1 | C3H5ClO
product | 1-(1-Chloro-2-hydroxy-3-propanyl)-4-[bis(4-chlorophenyl)methyl]piperazine | ClCC(CN1CCN(CC1)C(C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl)O | C20H23Cl3N2O
